US05093335
Preparation of 2-methylamino-3-tert-butylamino-5,6-dicyanopyrazine (Compound No. 27)
2.0 g (0.008 mol) of 2-chloro-3-tert-butylamino-5,6-dicyanopyrazine was dissolved in 50 ml of tetrahydrofuran., and 1.3 g (0.017 mol) of a 40% methylamine aqueous solution was dropwise added thereto at room temperature. The mixture was stirred for 1 hour, and then the reaction solution was poured into 500 ml of water. The precipitated solid was collected by filtration and recrystallized from isobutyl alcohol to obtain 1.4 g of slightly yellow crystals (yield: 76.1%, melting point: at least 250° C.).

reactant | 2-chloro-3-tert-butylamino-5,6-dicyanopyrazine | 0.008 mol, 2.0 g | ClC1=NC(=C(N=C1NC(C)(C)C)C#N)C#N | C10H10ClN5
reactant | methylamine | CN | CH5N
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methylamino-3-tert-butylamino-5,6-dicyanopyrazine | yield: 76.1% | CNC1=NC(=C(N=C1NC(C)(C)C)C#N)C#N | C11H14N6
